US07393873B2
Tetrahydrofuran-2-ylmethyl 4-{[(2-benzoylphenyl)amino]sulfonyl}phenylcarbamate
Triphosgene (28 mg, 1/3 equiv) was dissolved in 1 mL of THF and the solution cooled to 0° C. A solution of 4-amino-N-(2-benzoylphenyl)benzenesulfonamide (100 mg) in 3 mL of THF and 0.15 mL of triethylamine was added therto, and the reaction mixture was warmed to rt and stirred for 30 minutes. A solution of tetrahyhdrofurfuryl alcohol (44 mg, 1.5 equiv) in 3 mL of THF and 0.15 mL of triethylamine was added thereto and the reaction mixture was left stirring overnight. The reaction was quenched with water and diluted with EtOAc. The organic layer was washed once each with water and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The title product was obtained following flash chromatography (10% to 95% EtOAc/hexanes). ESMS, M+H+ found: 481.8.

reactant | Triphosgene | 28 mg, 1/3 equiv | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-amino-N-(2-benzoylphenyl)benzenesulfonamide | 100 mg | NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O | C19H16N2O3S
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 0.15 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.15 mL | C(C)N(CC)CC | C6H15N
product | Tetrahydrofuran-2-ylmethyl 4-{[(2-benzoylphenyl)amino]sulfonyl}phenylcarbamate | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)NC(OCC1OCCC1)=O | C25H24N2O6S
